US07276518B2
N′-[2-(1H-Indol-3-yl)-1-methyl-ethyl]-N,N-dimethyl-1-thiophen-2-yl-cyclohexane-1,4-diamine dihydrochloride, nonpolar diastereomer
DL-α-Methyltryptamine (N′-[2-(1H-indol-3-yl)-1-methylethyl]-N,N-dimethyl-1-thiophen-2-yl-cyclohexane-1,4-diamine, 348 mg) was dissolved in dry 1,2-dichloroethane (20 ml) under argon. After addition of 4-dimethylamino-4-thiophen-2-yl-cyclohexanone (447 mg) and glacial acetic acid (114 μl), a bulky precipitate formed. The suspension was stirred for one hour at RT. Sodium triacetoxyborohydride (660 mg) was then added and the reaction mixture was stirred for two days at RT. For working up, the mixture was diluted with 1,2-dichloroethane (10 ml) and water (15 ml), the organic phase was separated off, and the aqueous phase was again extracted with 1,2-dichloroethane (2×5 ml), rendered alkaline with 5M NaOH and extracted with ethyl acetate (4×15 ml). The combined organic phases were dried, concentrated and purified by flash chromatography (50 g silica gel 60, eluant: methanol/NEt3 (99:1)). The nonpolar diastereomer (202 mg, m.p. 158-161° C.) was dissolved in 2-butanone (5 ml) and converted with chlorotrimethylsilane (202 μl) into the corresponding dihydrochloride (white solid, 207 mg; m.p. 162-165° C.).

reactant | DL-α-Methyltryptamine | 348 mg | CC(CC1=CNC2=CC=CC=C21)N | C11H14N2
reactant | 4-dimethylamino-4-thiophen-2-yl-cyclohexanone | 447 mg | CN(C1(CCC(CC1)=O)C=1SC=CC1)C | C12H17NOS
reactant | acetic acid | 114 μl | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 660 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
reactant | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
solvent | water | 15 ml | O | H2O
product | N′-[2-(1H-Indol-3-yl)-1-methyl-ethyl]-N,N-dimethyl-1-thiophen-2-yl-cyclohexane-1,4-diamine dihydrochloride | Cl.Cl.N1C=C(C2=CC=CC=C12)CC(C)NC1CCC(CC1)(N(C)C)C=1SC=CC1 | InChI=1S/C23H31N3S.2ClH/c1-17(15-18-16-24-21-8-5-4-7-20(18)21)25-19-10-12-23(13-11-19,26(2)3)22-9-6-14-27-22;;/h4-9,14,16-17,19,24-25H,10-13,15H2,1-3H3;2*1H
